US05026740
Example 1a --Preparation of 2-phenylthio-2-methylpropiophenone
10.88 g of a 50% suspension of sodium hydride in paraffin mineral oil are fed into 100 ml of DMF, followed slowly by 25.11 g of thiophenol. When dissolution is complete (65° C.), the solution is cooled to 2° C. and 36.5 g of 2-chloro-2-methylpropiophenone are fed in over 30 minutes maintaining the temperature below 10° C.

reactant | sodium hydride | [H-].[Na+]
reactant | thiophenol | 25.11 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2-chloro-2-methylpropiophenone | 36.5 g | ClC(C(=O)C1=CC=CC=C1)(C)C | C10H11ClO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-phenylthio-2-methylpropiophenone | C1(=CC=CC=C1)SC(C(=O)C1=CC=CC=C1)(C)C | C16H16OS
